US05814651
5-[3-(Bicyclo[2.2.1]hept-2-yloxy)-4-methoxyphenyl]tetra-hydro-1,3-bis(2-quinolinylmethyl)-2(1H)-pyrimidinone
NaH (63 mg, 1.58 mmol, 1.0 eq, 60% oil dispersion) was added to a mixture of (0.500 g, 1.58 mmol, 1.0 eq) 5-[3-(bicyclo[2.2.1]hept-2-yloxy)4-methoxyphenyl]tetra-hydro-2(1H)-pyrimidinone and (0.279 g, 1.58 mmol, 1.0 eq) 2-chloromethylquinoline in 12 ml of anhydrous dimethylformamide. After stirring for 18 hours at room temperature, the reaction mixture was diluted with 250 ml of H2O and extracted with ethyl acetate. The ethyl acetate extract was washed once with H2O, once with brine, dried over Na2SO4, and concentrated in vacuo. The residue was chromatographed on a silica gel column, eluting with 21/2% CH3OH-CH2Cl2 to yield 50 mg of a solid, which was recrystallized from ethyl acetate-hexane to afford 45 mg, 5%, of a white crystalline solid. M.P.: 135°-136° C.

reactant | NaH | 1.58 mmol, 63 mg, 1.0 eq | [H-].[Na+]
reactant | 5-[3-(bicyclo[2.2.1]hept-2-yloxy)4-methoxyphenyl]tetra-hydro-2(1H)-pyrimidinone | 1.58 mmol, 0.500 g, 1.0 eq | C12C(CC(CC1)C2)OC=2C=C(C=CC2OC)C2CNC(NC2)=O | C18H24N2O3
reactant | 2-chloromethylquinoline | 1.58 mmol, 0.279 g, 1.0 eq | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | H2O | 250 ml | O | H2O
product | 5-[3-(Bicyclo[2.2.1]hept-2-yloxy)-4-methoxyphenyl]tetra-hydro-1,3-bis(2-quinolinylmethyl)-2(1H)-pyrimidinone | 50 mg | C12C(CC(CC1)C2)OC=2C=C(C=CC2OC)C2CN(C(N(C2)CC2=NC1=CC=CC=C1C=C2)=O)CC2=NC1=CC=CC=C1C=C2 | C38H38N4O3
